US07173151B2
tert-Butyl 2-ethyl-4-[cis-3-(2-oxoethoxy)cyclohexyl]butyrate
770 mg of tert-butyl 4-(cis-3-allyloxycyclohexyl)-2-ethylbutyrate are dissolved in 50 ml of diethyl ether, and 1.59 g of sodium periodate, dissolved in 50 ml of water, are added. At 0° C., 2.56 ml of an osmium tetroxide solution (2.5% by weight in tert-butanol) are added, and the mixture is stirred vigorously at room temperature. After 9 hours, a further 12.8 ml of the osmium tetroxide solution are added, and stirring at room temperature is continued for a further 3 hours. 200 ml of methyl tert-butyl ether are added and the mixture is washed with a saturated sodium thiosulfate solution. The organic phase is dried over magnesium sulfate and the solvent is then removed under reduced pressure. This gives 710 mg of tert-butyl 2-ethyl-4-[cis-3-(2-oxoethoxy)cyclohexyl]butyrate as a yellow-brown oil. C18H32O4 (312.45), Rf(n-heptane:ethyl acetate=5:1)=0.15.

reactant | tert-butyl 4-(cis-3-allyloxycyclohexyl)-2-ethylbutyrate | 770 mg | C(C=C)O[C@H]1C[C@H](CCC1)CCC(C(=O)OC(C)(C)C)CC | C19H34O3
reactant | sodium periodate | 1.59 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | methyl tert-butyl ether | 200 ml | C(C)(C)(C)OC | C5H12O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
catalyst | osmium tetroxide | 2.56 ml | [Os](=O)(=O)(=O)=O
catalyst | osmium tetroxide | 12.8 ml | [Os](=O)(=O)(=O)=O
product | tert-Butyl 2-ethyl-4-[cis-3-(2-oxoethoxy)cyclohexyl]butyrate | C(C)C(C(=O)OC(C)(C)C)CC[C@@H]1C[C@@H](CCC1)OCC=O | C18H32O4
